US09260408B2
1,4,4-Trimethyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one
In analogy to the procedure described for the preparation of intermediates A-1 [B], 6-bromo-1,4,4-trimethyl-3,4-dihydro-1H-quinolin-2-one was reacted with 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) in presence of potassium acetate and PdCl2(DPPF)-CH2Cl2 to give the title compound as an off-white solid. MS: 316.1 (M+H+).

reactant | 6-bromo-1,4,4-trimethyl-3,4-dihydro-1H-quinolin-2-one | BrC=1C=C2C(CC(N(C2=CC1)C)=O)(C)C | C12H14BrNO
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | C(C)(=O)[O-].[K+]
catalyst | PdCl2(DPPF) CH2Cl2 | C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.Cl[Pd]Cl.[Fe].C(Cl)Cl
product | 1,4,4-Trimethyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one | CN1C(CC(C2=CC(=CC=C12)B1OC(C(O1)(C)C)(C)C)(C)C)=O | C18H26BNO3
